US06384065B1
In an atmosphere of nitrogen, 0.23 g of magnesium powder was suspended in 2 ml of anhydrous ethyl ether. While refluxing the suspension, a solution of 2.00 g of 4-tert-butyl-1-bromobenzene in 10 ml anhydrous ethyl ether was dropwise added. After stirring the resulting mixture under reflux for one hour, a solution of 1.17 g of 1,4-cyclohexandione monoethylene ketal in 10 ml anhydrous tetrahydrofuran was dropwise added at 0-5° C., and the temperature was elevated to ambient temperature. After stirring the mixture at the same temperature as above, the reaction mixture was poured into a mixture of water and acetic acid, stirred at ambient temperature for 20 minutes, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by column chromatography [eluent: hexane:ethyl acetate=3:1] gave 1.25 of 8-[4-(tert-butyl)phenyl]-1,4-dioxaspiro[4.5]decan-8-ol as a light yellow oily product.

reactant | magnesium | 0.23 g | [Mg] | Mg
reactant | 4-tert-butyl-1-bromobenzene | 2.00 g | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
reactant | 1,4-cyclohexandione monoethylene ketal | 1.17 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | water | O | H2O
solvent | ethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-[4-(tert-butyl)phenyl]-1,4-dioxaspiro[4.5]decan-8-ol | C(C)(C)(C)C1=CC=C(C=C1)C1(CCC2(OCCO2)CC1)O | C18H26O3
